US06603005B2
A mixture of 0.62 g of ethyl 4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]piperidine-4-carboxylate, 0.505 g of 5-(2-bromoethoxy)-1,2,3-trifluorobenzene, 0.34 g of potassium iodide and 1.14 g of potassium carbonate in 80 cm3 of acetonitrile was stirred under an inert atmosphere for 18 hours at a temperature in the region of 70° C. After cooling to about 20° C., the suspension was filtered and the insoluble material was washed with 3 times 30 cm3 of acetonitrile. The filtrate was concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The evaporation residue was purified by chromatography under atmospheric pressure, on a column of silica gel (particle size 20-45μ; diameter 3 cm; height 21 cm), eluting with ethyl acetate and collecting 40-cm3 fractions. Fractions 9 to 24 were combined and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. 0.8 g of ethyl 4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(3,4,5-trifluorophenoxy)ethyl]piperidine-4-carboxylate was obtained in the form of a pale yellow viscous oil.

reactant | ethyl 4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]piperidine-4-carboxylate | 0.62 g | FC=1C=NC2=CC=C(C=C2C1CCCC1(CCNCC1)C(=O)OCC)OC | C21H27FN2O3
reactant | 5-(2-bromoethoxy)-1,2,3-trifluorobenzene | 0.505 g | BrCCOC=1C=C(C(=C(C1)F)F)F | C8H6BrF3O
reactant | potassium iodide | 0.34 g | [I-].[K+]
reactant | potassium carbonate | 1.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 80 cm3 | C(C)#N | C2H3N
product | ethyl 4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(3,4,5-trifluorophenoxy)ethyl]piperidine-4-carboxylate | 0.8 g | FC=1C=NC2=CC=C(C=C2C1CCCC1(CCN(CC1)CCOC1=CC(=C(C(=C1)F)F)F)C(=O)OCC)OC | C29H32F4N2O4
